US04579847
(Z)-3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-2-propenoic acid (1.22 g) was heated in anhydrous methanol (190 ml) containing boron trifluoride etherate (1.58 ml) at reflux temperature for 8 hours. The reaction mixture was concentrated to a small volume in vacuo and the precipitate was filtered and washed with water until neutral to give 1.1 g of (Z)-3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-2-propenoic acid, methyl ester, m.p. 233°-235° C.

reactant | (Z)-3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-2-propenoic acid | 1.22 g | C(C1=CC=CC=C1)=C1CCN2C1=NC=1C=C(C=CC1C2=O)NC(=O)\C=C/C(=O)O | C22H17N3O4
reactant | boron trifluoride etherate | 1.58 ml | B(F)(F)F.CCOCC
solvent | methanol | 190 ml | CO | CH4O
product | (Z)-3-[N-(3-benzylidene-9-oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-6-yl)-aminocarbonyl]-2-propenoic acid, methyl ester | 1.1 g | C(C1=CC=CC=C1)=C1CCN2C1=NC=1C=C(C=CC1C2=O)NC(=O)\C=C/C(=O)OC | C23H19N3O4
